US08217069B2
To a solution of 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-hydroxy-methylphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one (11 mg) in methylene chloride (2 mL) was added 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3(1H)-one (19 mg), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/2−1/3) to give 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-formylphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one (9 mg). To this material were added tert-butanol (1 mL), water (0.5 mL), tetrahydrofuran (1 mL), sodium dihydrogen phosphate (4 mg), 2-methyl-2-butene (0.006 mL) and sodium chlorite (6 mg) successively, and the mixture was stirred at 30° C. for 3 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residual crystals were suspended in a mixed solvent (n-hexane/ethyl acetate=3/1), and collected by filtration. The collected crystals were dried under reduced pressure to give the title compound (4 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-hydroxy-methylphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 11 mg | ClC1=C(C=C(C(=C1C)O)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C22H19ClF2N4O5
reactant | 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 19 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-formylphenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 9 mg | ClC1=C(C=C(C(=C1)C=O)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C22H17ClF2N4O5
